US06207686B1
To a cooled (−78° C.) solution of lithium diisopropylamide (1.55M in n-hexane) in tetrahydrofuran (2 ml) was added a solution of 3-(2-benzyloxyphenyl)propionate (140 mg) in tetrahydrofuran (1.4 ml) and the mixture was stirred for 30 minutes. Cyclohexanecarbaldehyde (80 mg) was added. After being stirred for 30 minutes at the same temperature, the mixture was quenched by 1N hydrochloric acid. The organic layer was separated and the aqueous layer was extracted with diethyl ether. The combined organic layer was washed with aqueous sodium bicarbonate solution and brine successively, dried and evaporated under reduced pressure. The residue was purified by preparative thin layer chromatography (silica gel, 60% diethyl ether - hexane) to afford less polar isomer of methyl (2RS,3SR)-2-(2-benzyloxyphenylmethyl)-3-cyclohexyl-3-hydroxypropionate (isomer A) (56.2 mg) and more polar isomer of methyl (2RS,3RS)-2-(2-benzyloxyphenylmethyl)-3-cyclohexyl-3-hydroxypropionate (isomer B) (74.4 mg).

reactant | lithium diisopropylamide | 1.55M | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-(2-benzyloxyphenyl)propionate | 140 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCC(=O)[O-]
reactant | Cyclohexanecarbaldehyde | 80 mg | C1(CCCCC1)C=O | C7H12O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.4 ml | O1CCCC1 | C4H8O
product | methyl (2RS,3RS)-2-(2-benzyloxyphenylmethyl)-3-cyclohexyl-3-hydroxypropionate | 74.4 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(C(=O)OC)C(O)C1CCCCC1 | C24H30O4
